US08470841B2
27f N-{2-[4-(5-Isopropoxypyridin-2-yloxy)phenoxy]-1-methylethyl}acetamide
2-[4-(5-Isopropoxypyridin-2-yloxy)phenoxy]-1-methylethylamine trifluoroacetate (624 mg, 1.5 mmol) was reacted with acetic anhydride in analogy to example 2a. Yield: 251 mg (49%), M+H+: 345.12.

reactant | 2-[4-(5-Isopropoxypyridin-2-yloxy)phenoxy]-1-methylethylamine trifluoroacetate | 1.5 mmol, 624 mg | FC(C(=O)O)(F)F.C(C)(C)OC=1C=CC(=NC1)OC1=CC=C(OCC(C)N)C=C1
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-{2-[4-(5-Isopropoxypyridin-2-yloxy)phenoxy]-1-methylethyl}acetamide | C(C)(C)OC=1C=CC(=NC1)OC1=CC=C(OCC(C)NC(C)=O)C=C1 | C19H24N2O4
